US07176242B2
3-Bromo-5-{[butyl(methyl)amino]methyl}-N-((1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl)benzamide dihydrochloride
Methyl 3-bromo-5-{[butyl(methyl)amino]methyl}benzoate prepared by the method in EXAMPLE SP-190, Step 1 (200 mg, 0.64) is dissolved in 2:1:1 tetrahydrofuran/methanol/water (4 mL), and lithium hydroxide monohydrate is added (60 mg, 1.3 mmol), and the reaction stirred 16 h. The solution is concentrated under reduced pressure. The residue is redissolved in DMF (5 mL), and diisopropylethylamine (445 μL, 2.6 mmol), HATU (304 mg, 0.8 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[3-(trifluoromethyl)benzyl]amino}butan-2-ol dihydrochloride prepared by the method in EXAMPLE S-2511 (315 mg, 0.7 mmol) are added. The reaction stirred at room temperature 16 h. The reaction mixture is diluted with ethyl acetate, washed with water, and saturated sodium bicarbonate, brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 9% methanol/methylene chloride) provides the title compound as the free base. The residue is dissolved in diethyl ether (3 mL) and 1N hydrochloric acid in diethyl ether (2 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 656.2 [M+H]+.

reactant | Methyl 3-bromo-5-{[butyl(methyl)amino]methyl}benzoate | BrC=1C=C(C(=O)OC)C=C(C1)CN(C)CCCC | C14H20BrNO2
reactant | diisopropylethylamine | 2.6 mmol, 445 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.8 mmol, 304 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[3-(trifluoromethyl)benzyl]amino}butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)C(F)(F)F)O)CC1=CC(=CC(=C1)F)F
solvent | tetrahydrofuran methanol water | 4 mL | O1CCCC1.CO.O
solvent | lithium hydroxide monohydrate | O.[OH-].[Li+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-5-{[butyl(methyl)amino]methyl}-N-((1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl)benzamide dihydrochloride | Cl.Cl.BrC=1C=C(C(=O)N[C@H]([C@@H](CNCC2=CC(=CC=C2)C(F)(F)F)O)CC2=CC(=CC(=C2)F)F)C=C(C1)CN(C)CCCC | InChI=1S/C31H35BrF5N3O2.2ClH/c1-3-4-8-40(2)19-22-9-23(15-25(32)11-22)30(42)39-28(14-21-12-26(33)16-27(34)13-21)29(41)18-38-17-20-6-5-7-24(10-20)31(35,36)37;;/h5-7,9-13,15-16,28-29,38,41H,3-4,8,14,17-19H2,1-2H3,(H,39,42);2*1H/t28-,29+;;/m0../s1
